Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Simvastatin
 
Attending: ___.
 
Chief Complaint:
LLE claudication
 
Major Surgical or Invasive Procedure:
___ A left proximal popliteal to posterior tibial bypass using 
reversed right arm cephalic vein.

 
History of Present Illness:
___ year old man with history of HLD, headaches, and back
pain presenting for evaluation of left leg pain. Left leg pain
occurs after walking and with exertion. Has had the pain for 
many
years, but says that it has been worsening since this ___ and
he now is only able to walk for ___ minutes before it begins to
hurt. Additionally he says that his first and second digits on
his left foot will feel cold and numb. After resting his 
symptoms
usually subside. Within the past few weeks he says he has 
noticed
some symptoms at rest. He doesn't consider it overt pain, but
says it feels more like a discomfort in the posterior aspect of
his left lower leg. 

He underwent a recent u/s of his legs with pulse volume
recordings, which showed an ABI of 0.7 in the left leg (1.0 in
R), with minimal change with exertion. Also showed significantly
reduced left digital flow.

He reports a history of chest pain a year ago, but says he had a
stress test at that time that was normal. He has no other 
history
of heart or lung disease.
In regards to his back pain, he says that his leg symptoms are
very different from his sciatic nerve pain.
 
Past Medical History:
PMH: 
HLD
headaches (followed by neurologist)
lower back pain (followed by spine)

PSH: 
None

 
Social History:
___
Family History:
FH: Mother with history of DM, HTN
 
Physical Exam:
On discharge:

General: NAD, AOx3, resting in bed comfortably
Chest: Normal work of breathing on room air
Abd: Soft, nontender, nondistended
Ext: RUE and LLE incisions c/d/I, no erythema or swelling of 
extremities, warm and well perfused
Neuro: Sensation grossly intact, moving all four extremities 
equally
Pulses: palpable L ___

 
Pertinent Results:
___ 04:43AM BLOOD WBC-7.1 RBC-3.91* Hgb-12.0* Hct-35.7* 
MCV-91 MCH-30.7 MCHC-33.6 RDW-12.0 RDWSD-40.1 Plt ___
___ 04:43AM BLOOD Glucose-102* UreaN-12 Creat-1.0 Na-142 
K-4.2 Cl-107 HCO3-24 AnGap-11
___ 03:55AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:55PM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:43AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.0
___ 03:55AM BLOOD %HbA1c-5.2 eAG-103
___ 07:05PM BLOOD Type-ART pO2-124* pCO2-39 pH-7.38 
calTCO2-24 Base XS--1
___ 07:05PM BLOOD Lactate-1.8
___ 07:05PM BLOOD freeCa-1.13
 
Brief Hospital Course:
Mr. ___ presented to ___ holding at ___ on ___ for a 
LEFT FEMORAL TO POSTERIOR TIBIAL BYPASS WITH RIGHT CEPHALIC 
VEIN; GASTROCNEMIUS MYOTOMY; ANGIOSCOPY. He tolerated the 
procedure well without complications (Please see operative note 
for further details).  

In the PACU the patient was noted to have a vasovagal episode, 
with bradycardia down to below 20 bpm and less than 30 seconds 
of asystole.  Patient recovered without intervention,, cardiac 
enzymes were sent which were normal, and EKG had slight QTC 
prolongation secondary to Zofran administration, otherwise was 
within normal limits. Stat labs including lactate, arterial 
blood gas CBC and electrolytes were within normal limits. The 
patient recovered without neurologic or Cardiologic sequela.

Once transferred to the floor the patient underwent a syncopal 
work-up, including a TTE which demonstrated an EF of 63% and no 
thrombus. He also had bilateral carotid carotid duplex studies 
which showed less than 40% narrowing bilaterally. 

On POD1 1 the patient was normalized, his foley was removed, 
arterial line removed, and he was tolerating a regular diet 
while on bedrest.  On postop day 2 he was allowed to get out of 
bed to chair, his left thigh dressings were taken down as 
normal. 

Neuro: Pain was well controlled on oral medications¦
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. 
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. Patient's intake and output were closely 
monitored.
GU: The patient had a Foley catheter that was removed prior to 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: The patient had blood levels checked daily during his 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay, he was encouraged to get up and ambulate as 
early as possible. 

On POD4, the patient was discharged to home with physical 
therapy services. At discharge, he was tolerating a regular 
diet, passing flatus, voiding, and ambulating independently. He 
will follow-up in the clinic in ___ weeks. This information was 
communicated to the patient directly prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
2. Pravastatin 80 mg PO QPM 
3. Multivitamins 1 TAB PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Riboflavin (Vitamin B-2) 200 mg PO DAILY 
6. magnesium 250 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain/headache  
2.  Aspirin EC 81 mg PO DAILY  
3.  magnesium 250 mg oral DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Pravastatin 80 mg PO QPM  
6.  Riboflavin (Vitamin B-2) 200 mg PO BID  
7.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Occluded popliteal artery from thrombosed popliteal aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
3 Mr. ___,
It was pleasure taking care of you at ___. 
HERE IS WHAT TO EXPECT AFTER SURGERY:

1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
•Take aspirin as instructed 
•Follow your discharge medication instructions

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Your staples will be removed there weeks after surgery during 
your follow-up appointment.  You do have excessive swelling 
interim, call the office for instructions.
 
Followup Instructions:
___